US07288547B2
Production of 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide
175 mg (0.5 mmol) of 5-(5-bromo-4-hydroxy-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide is refluxed with 20 mg of N,N-diethylaniline in 2 ml of phosphorus oxychloride for 3 hours. Then, it is cooled, poured onto ice and stirred for 30 minutes. The precipitated crystals are suctioned off, washed with water and acetonitrile and dried at 50° C. in a vacuum. Yield: 155 mg (85% of theory) of 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide.

reactant | 5-(5-bromo-4-hydroxy-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide | 0.5 mmol, 175 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)O | C9H8BrN5O3S
reactant | N,N-diethylaniline | 20 mg | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)Cl | C9H7BrClN5O2S
